** sch_path: /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_IP_OP_OTA_STB.sch
.lib /home/nithin/.ciel/sky130A/libs.tech/combined/sky130.lib.spice fs
.include /home/nithin/.ciel/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt Rail_to_Rail_IP_OP_OTA_STB
V3 GNDA 0 0
V5 EN 0 1.8
C1 Vout 0 10p
Vprobe1 probe Vout dc 0 ac 1
Vprobe2 probe net1 0
Iprobe1 0 probe dc 0 ac 1
x1 VDD VICM net1 Vout EN 0 Rail_to_Rail_IP_OP_OTA
V2 VICM 0 dc 0.9 sin(0.9 0.65 1k)
V4 VDD 0 dc 1.8 ac 1
**** begin user architecture code



.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_bot_l2.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_l2.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_bot_l1.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_l1.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_l2.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_l1.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_top_l1.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[gm]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[gds]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[vth]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[vdsat]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[cgg]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[cgso]
.save @m.x1.xmn_a1.msky130_fd_pr__nfet_01v8_lvt[cgdo]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[gm]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[gds]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[vth]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[vdsat]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[cgg]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[cgso]
.save @m.x1.xmn_a2.msky130_fd_pr__nfet_01v8_lvt[cgdo]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[gm]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[gds]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[vth]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[vdsat]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[cgg]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[cgso]
.save @m.x1.xmp_a1.msky130_fd_pr__pfet_01v8_lvt[cgdo]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[gm]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[gds]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[vth]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[vdsat]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[cgg]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[cgso]
.save @m.x1.xmp_a2.msky130_fd_pr__pfet_01v8_lvt[cgdo]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_pdiff_bias.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_ndiff_bias.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_pdiff_bias_b.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_top_l2.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_bias_source.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_bias_ext.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_b_source.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias8.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_b_source.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_bias1.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias7.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias6.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_bias2.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_casc_bias3.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias5.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias4.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias3.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias1.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_casc_bias2.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_sw1.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_sw1.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_sw2.msky130_fd_pr__pfet_01v8[cgdo]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[gm]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[gds]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[vth]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[vdsat]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[cgg]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[cgso]
.save @m.x1.xmn_sw2.msky130_fd_pr__nfet_01v8[cgdo]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[gm]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[gds]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[vth]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[vdsat]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[cgg]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[cgso]
.save @m.x1.xmp_sw3.msky130_fd_pr__pfet_01v8[cgdo]




.options savecurrents
.control

 save all
 let runs=2
 let run=0

 alter @Vprobe1[acmag]=1
 alter @iprobe1[acmag]=0

 dowhile run < runs
 set run =”$&run”
 ac dec 20 1 1e8
 write /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_OTA_IP/Rail_to_Rail_OTA_Sims/STB/spice/OTA_STB_TB_fs_{$run}.raw
 all
 alter @Vprobe1[acmag]=0
 alter @iprobe1[acmag]=1
 let run = run + 1
 end

 let ip22 = ac2.i(Vprobe2)
 let vprb1 = ac1.probe
 let mb = 1/(vprb1+ip22)-1
 let phase_mb = 180/PI*vp(mb)
 wrdata /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_OTA_IP/Rail_to_Rail_OTA_Sims/STB/csv_results/Rail_to_Rail_OTA_fs_STB.csv frequency vdb(mb) phase_mb
* plot vdb(mb)   $ auto-commented for batch mode
* plot phase_mb   $ auto-commented for batch mode
* plot vdb(mb) phase_mb   $ auto-commented for batch mode
 echo -------------------------------
 echo -------------------------------
 meas ac peak MAX vmag(mb) FROM=2 TO=1.5GHZ
 let f3db = peak/sqrt(2)
 meas ac f1 WHEN vmag(mb)=f3db RISE=1
 meas ac BW WHEN vmag(mb)=f3db FALL=1
 let GBW = peak*BW
 meas ac pm_deg find phase_mb when vdb(mb)=0
 meas ac dominant_pole_f when vdb(mb)=0
 meas ac loop_gain find vdb(mb) at=0.01
 print GBW
 op
 **show m : gm : gmbs : gds : vds : vdsat : vgs : vth : id
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_IP_OP_OTA.sym # of pins=6
** sym_path: /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_IP_OP_OTA.sym
** sch_path: /home/nithin/eda/SKYWATER_DESIGN_IPS/OTAs/Rail_to_Rail_IP_OP_OTA.sch
.subckt Rail_to_Rail_IP_OP_OTA VDD VINP VINN VOUT EN GNDA
*.ipin VINP
*.ipin VINN
*.ipin VDD
*.ipin GNDA
*.opin VOUT
*.ipin EN
XMN_BOT_L2 net2 net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=6 m=6
XMN_CASC_L2 VOUT VBN_CASC net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=3 m=3
XMN_BOT_L1 net1 net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=6 m=6
XMN_CASC_L1 net5 VBN_CASC net1 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=3 m=3
XMP_CASC_L2 VOUT VBP_CASC net4 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=8 m=8
XMP_CASC_L1 net5 VBP_CASC net3 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=8 m=8
XMP_TOP_L1 net3 net5 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=6 m=6
XMN_A1 net3 VINP net6 GND sky130_fd_pr__nfet_01v8_lvt L=2 W=2.5 nf=1 ad=0.725 as=0.725 pd=5.58 ps=5.58 nrd=0.116 nrs=0.116 sa=0
+ sb=0 sd=0 mult=8 m=8
XMN_A2 net4 VINN net6 GND sky130_fd_pr__nfet_01v8_lvt L=2 W=2.5 nf=1 ad=0.725 as=0.725 pd=5.58 ps=5.58 nrd=0.116 nrs=0.116 sa=0
+ sb=0 sd=0 mult=8 m=8
XMP_A1 net1 VINP net7 VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=28 m=28
XMP_A2 net2 VINN net7 VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=28 m=28
XMP_PDIFF_BIAS net7 net9 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=8 m=8
XMN_NDIFF_BIAS net6 net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0
+ sb=0 sd=0 mult=8 m=8
XMP_PDIFF_BIAS_B net9 net9 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0
+ sb=0 sd=0 mult=1
XMP_TOP_L2 net4 net5 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=6 m=6
XMN_BIAS_SOURCE net9 net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0
+ sb=0 sd=0 mult=1
XMN_BIAS_EXT net8 net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0
+ sb=0 sd=0 mult=1
I0 VDD net8 1u
XMP_CASC_B_SOURCE VBN_CASC net9 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145
+ sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS8 net12 VBN_CASC GNDA GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_B_SOURCE VBP_CASC net8 GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP_CASC_BIAS1 net11 VBP_CASC VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58
+ sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS7 net13 VBN_CASC net12 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS6 net14 VBN_CASC net13 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP_CASC_BIAS2 net10 VBP_CASC net11 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP_CASC_BIAS3 VBP_CASC VBP_CASC net10 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS5 net15 VBN_CASC net14 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS4 net16 VBN_CASC net15 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS3 net17 VBN_CASC net16 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS1 VBN_CASC VBN_CASC net18 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_CASC_BIAS2 net18 VBN_CASC net17 GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58
+ nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN_SW1 net8 EN_B GNDA GND sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XMP_SW1 net9 EN VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
x1 EN GNDA GNDA VDD VDD EN_B sky130_fd_sc_hd__inv_1
XMP_SW2 VBP_CASC EN VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XMN_SW2 VBN_CASC EN_B GNDA GND sky130_fd_pr__nfet_01v8 L=2 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XMP_SW3 net5 EN VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
.save v(vdd)
.save v(net7)
.ends

.GLOBAL VDD
.end
